US08729102B2
A) tert-butyl [(1S)-2-{[5-(5-ethoxy-1,3-benzoxazol-2-yl)isoxazol-3-yl]oxy}-1-methylethyl]carbamate
Using tert-butyl [(1S)-2-{[5-(5-hydroxy-1,3-benzoxazol-2-yl)isoxazol-3-yl]oxy}-1-methylethyl]carbamate and ethyl iodide, and in the same manner as in Example 2, step E, the title compound was obtained.

reactant | tert-butyl [(1S)-2-{[5-(5-hydroxy-1,3-benzoxazol-2-yl)isoxazol-3-yl]oxy}-1-methylethyl]carbamate | OC=1C=CC2=C(N=C(O2)C2=CC(=NO2)OC[C@H](C)NC(OC(C)(C)C)=O)C1 | C18H21N3O6
reactant | ethyl iodide | C(C)I | C2H5I
product | tert-butyl [(1S)-2-{[5-(5-ethoxy-1,3-benzoxazol-2-yl)isoxazol-3-yl]oxy}-1-methylethyl]carbamate | C(C)OC=1C=CC2=C(N=C(O2)C2=CC(=NO2)OC[C@H](C)NC(OC(C)(C)C)=O)C1 | C20H25N3O6
